US07749999B2
(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-oxo-acetic acid (34, R=Me).
To a scintillation vial containing (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-hydroxy-acetic acid (0.35 g, 1.2 mmol) was added 15 mL DCM followed by the addition of Dess-Martin periodinane (0.61 g, 1.44 mmol). The reaction mixture was allowed to stir at room temperature for 20 minutes and poured into a separatory funnel containing 30 mL 0.5 M HCl. The layers separated and the aqueous layer extracted twice more with 50 mL DCM. The combined organic layers were washed with Brine, dried over MgSO4 and concentrated under vacuum to afford the desired product (purity >80% by NMR). No further purification was attempted. Expected mass=286. Observed mass=287.

reactant | (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-hydroxy-acetic acid | 1.2 mmol, 0.35 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)C(C(=O)O)O | C16H20N2O3
reactant | Dess-Martin periodinane | 1.44 mmol, 0.61 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | HCl | 0.5 M, 30 mL | Cl | ClH
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-oxo-acetic acid | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)C(C(=O)O)=O | C16H18N2O3
